US06720338B2
4-iodo-1-octyl-1H-pyrazole
A solution of 4-iodopyrazole (11.25 g, 6.44 mmol) in DMF (20 mL) at room temperature was treated with 60% NaH (271 mg, 6.77 mmol), stirred for 10 minutes, treated with 1-bromooctane (1.22 mL, 7.08 mmol), stirred for 30 minutes, poured into water, and extracted three times with ether/hexanes. The combined extracts were washed with water and brine, dried (MgSO4), filtered, and concentrated to provide the desired product. MS (ESI(+)) m/e 307 (M+H)+.

reactant | 4-iodopyrazole | 6.44 mmol, 11.25 g | IC=1C=NNC1 | C3H3IN2
reactant | NaH | 6.77 mmol, 271 mg | [H-].[Na+]
reactant | 1-bromooctane | 7.08 mmol, 1.22 mL | BrCCCCCCCC | C8H17Br
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-iodo-1-octyl-1H-pyrazole | IC=1C=NN(C1)CCCCCCCC | C11H19IN2
